US07932246B2
4-{6-[(Naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoic acid trimethylsylanoate
Ethyl 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoate (500 mg, 1.29 mmol) was stirred in THF (30 ml) with potassium trimethylsilanolate (332 mg, 2.58 mmol) at r.t. under N2 for 6 h. More potassium trimethylsilanolate (332 mg, 2.58 mmol) was added and the reaction stirred at 50° C. for 4 days. The reaction was allowed to cool to r.t. and a precipitate formed. This was isolated by filtration, dried and used in the next step without further purification. LCMS purity 60%, m/z 359 [M+H]+.

reactant | Ethyl 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoate | 1.29 mmol, 500 mg | C1=C(C=CC2=CC=CC=C12)CNC1C2CN(CC12)C1=CC=C(C(=O)OCC)C=C1 | C25H26N2O2
reactant | potassium trimethylsilanolate | 2.58 mmol, 332 mg | C[Si]([O-])(C)C.[K+]
reactant | potassium trimethylsilanolate | 2.58 mmol, 332 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-{6-[(Naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoic acid | C1=C(C=CC2=CC=CC=C12)CNC1C2CN(CC12)C1=CC=C(C(=O)O)C=C1 | C23H22N2O2
